US08030311B2
Step 25.2: {4-[5-(4-Methoxy-phenyl)-benzoimidazol-1-yl]-phenyl}-acetic acid ethyl ester
A mixture of [4-(5-bromo-benzoimidazol-1-yl)-phenyl]-acetic acid ethyl ester (0.300 g, 0.84 mmol), 4-methoxyphenylboronic acid (0.152 g, 1.00 mmol, 1.2 equiv), PdCl2(dppf) (18 mg, 0.025 mmol, 0.03 equiv), Na2CO3 (2 M solution in H2O, 1.7 mL, 3.34 mmol, 4 equiv) in toluene/EtOH (12 mL; 5:1, v/v) is stirred and refluxed for 2 h. After further addition of boronic acid (0.100 g, 0.66 mmol) in EtOH (1 mL), the reaction mixture is stirred and refluxed for 30 min, allowed to cool to rt, diluted with EtOAc and H2O, and filtered through a pad of Celite. The layers are separated and the aqueous phase is extracted with EtOAc. The combined organic phase is washed with brine, dried (Na2SO4), filtered and concentrated in vacuo. Silica gel column chromatography purification (Hexane/EtOAc, 3:1) provides the title compound as a yellow solid: ES-MS: 387.1 [M+H]+; single peak at tR=4.27 min (System 1); Rf=0.24 (Hexane/EtOAc, 3:1).

reactant | [4-(5-bromo-benzoimidazol-1-yl)-phenyl]-acetic acid ethyl ester | 0.84 mmol, 0.300 g | C(C)OC(CC1=CC=C(C=C1)N1C=NC2=C1C=CC(=C2)Br)=O | C17H15BrN2O2
reactant | 4-methoxyphenylboronic acid | 1.00 mmol, 0.152 g, 1.2 equiv | COC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | Na2CO3 | 3.34 mmol, 2 M, 1.7 mL, 4 equiv | C(=O)([O-])[O-].[Na+].[Na+]
reactant | boronic acid | 0.66 mmol, 0.100 g | B(O)O | BH3O2
solvent | toluene EtOH | C1(=CC=CC=C1)C.CCO
solvent | EtOH | 1 mL | CCO | C2H6O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | H2O | O | H2O
catalyst | PdCl2(dppf) | 0.025 mmol, 18 mg, 0.03 equiv | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | {4-[5-(4-Methoxy-phenyl)-benzoimidazol-1-yl]-phenyl}-acetic acid ethyl ester | C(C)OC(CC1=CC=C(C=C1)N1C=NC2=C1C=CC(=C2)C2=CC=C(C=C2)OC)=O | C24H22N2O3
